US06951848B2
5-(2-Diethylamino-ethyl)-2-methyl-1H-indole-3-carboxylic acid (S)-1-phenyl-ethyl ester, hydrochloride
To a mixture of 5-(2-methanesulfonyloxy-ethyl)-2-methyl-1H-indole-3-caboxylic acid (285 mg, 0.96 mmol) and triethylamine (0.134 mL, 0.96 mmol) in dry THF (10 mL) was added benzoyl chloride (0.11 mL, 0.96 mmol). The mixture was stirred under nitrogen atmosphere at room temperature for 3 hours. The mixture was filtered and the filtrate was concentrated in vacuo to give a residue, which was triturated with diethyl ether to give 310 mg (81%) of the desired product as a off-white foam: MS(APCI−): m/z 400.0 (M−H).

reactant | 5-(2-methanesulfonyloxy-ethyl)-2-methyl-1H-indole-3-caboxylic acid | 0.96 mmol, 285 mg | CS(=O)(=O)OCCC=1C=C2C(=C(NC2=CC1)C)C(=O)O | C13H15NO5S
reactant | triethylamine | 0.96 mmol, 0.134 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.96 mmol, 0.11 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2-Diethylamino-ethyl)-2-methyl-1H-indole-3-carboxylic acid (S)-1-phenyl-ethyl ester, hydrochloride | 310 mg, 81% | Cl.C1(=CC=CC=C1)[C@H](C)OC(=O)C1=C(NC2=CC=C(C=C12)CCN(CC)CC)C | InChI=1S/C24H30N2O2.ClH/c1-5-26(6-2)15-14-19-12-13-22-21(16-19)23(17(3)25-22)24(27)28-18(4)20-10-8-7-9-11-20;/h7-13,16,18,25H,5-6,14-15H2,1-4H3;1H/t18-;/m0./s1
